US06982348B2
To a solution of tert-butyl (4RS,5SR)-5-(3-chlorophenyl)-2-oxo-4-[4-(2,2,3,3,3-pentafluoropropyl)benzyl]-1,3-oxazolidine-3-carboxylate (2.66 g, 5.12 mmol) in methanol-tetrahydrofuran (20 ml-20 ml) was added 1N sodium hydroxide (6.2 ml, 6.2 mmol), and the mixture was stirred overnight at room temperature. The mixture was diluted with water and extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by recrystallization (hexane-ethyl acetate) to give tert-butyl (1RS,2SR)-2-(3-chlorophenyl)-2-hydroxy-1-[4-(2,2,3,3,3-pentafluoropropyl)benzyl]ethylcarbamate (2.11 g, 83%) as colorless crystals.

reactant | tert-butyl (4RS,5SR)-5-(3-chlorophenyl)-2-oxo-4-[4-(2,2,3,3,3-pentafluoropropyl)benzyl]-1,3-oxazolidine-3-carboxylate | 5.12 mmol, 2.66 g | ClC=1C=C(C=CC1)C1C(N(C(O1)=O)C(=O)OC(C)(C)C)CC1=CC=C(C=C1)CC(C(F)(F)F)(F)F | C24H23ClF5NO4
reactant | sodium hydroxide | 6.2 mmol, 1N, 6.2 ml | [OH-].[Na+]
solvent | methanol tetrahydrofuran | 20 ml-20 ml | CO.O1CCCC1
solvent | water | O | H2O
product | tert-butyl (1RS,2SR)-2-(3-chlorophenyl)-2-hydroxy-1-[4-(2,2,3,3,3-pentafluoropropyl)benzyl]ethylcarbamate | 2.11 g, 83% | ClC=1C=C(C=CC1)C(C(CC1=CC=C(C=C1)CC(C(F)(F)F)(F)F)NC(OC(C)(C)C)=O)O | C23H25ClF5NO3
